US04883815
20.0 g of 10-chloro-1,4,5,6-tetrahydrobenzo[f]quinolin-3(2H)-one are added portionwise within 35 minutes at 20° to 25° to a stirred suspension of 6.49 g of lithium aluminum hydride in 240 ml of dry tetrahydrofuran. The reaction mixture is subsequently boiled under reflux for 150 minutes. The mixture is cooled, treated at 0° to 10° with 21.0 ml of 6.5N sodium hydroxide solution, filtered and rinsed several times with 20 ml of tetrahydrofuran each time. Distillation of the solvent in a vacuum gives 10-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline which is processed directly.

reactant | 10-chloro-1,4,5,6-tetrahydrobenzo[f]quinolin-3(2H)-one | 20.0 g | ClC1=CC=CC2=C1C=1CCC(NC1CC2)=O | C13H12ClNO
reactant | lithium aluminum hydride | 6.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 6.5N, 21.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | 10-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | ClC1=CC=CC2=C1C=1CCCNC1CC2 | C13H14ClN
